US04520193
A 1.6M solution of butyllithium in hexane (3.44 cc) is added, in the course of 10 minutes, to a solution of 2,2,6,6-tetramethylpiperidine (0.78 g) in tetrahydrofuran (5 cc) at 20° C. The solution is stirred for 10 minutes at 20° C. and then cooled to -70° C. A solution of 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.54 g) in tetrahydrofuran (6 cc) is then added in the course of 20 minutes, and the mixture is then stirred for 15 minutes at -70° C. Hexamethylphosphorotriamide (7 cc) is added in the course of 3 minutes, followed by a solution of p-toluenesulphonyl chloride (5.23 g) in tetrahydrofuran (7 cc) in the course of 3 minutes. The mixture is stirred for 45 minutes at -70° C., the temperature is then left to rise to 0° C. and the solution is diluted with ethyl acetate (100 cc) and washed successively with a 0.1N solution of citric acid (50 cc), a saturated aqueous solution of sodium bicarbonate (50 cc) and distilled water (100 cc). The organic phase is dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is chromatographed on a column of Merck silica gel (0.06-0.20) (110 g) (diameter of the column: 3 cm; height: 26 cm). Elution is carried out with a 15/80 (by volume) ethyl acetate/cyclohexane mixture (1,200 cc), 60 cc fractions being collected. Fractions 3 to 15 are concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-tosyloxyprop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.94 g) in the form of a hard, pale yellow foam.

reactant | butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 0.78 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.54 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O6S
reactant | p-toluenesulphonyl chloride | 5.23 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | hexane | 3.44 cc | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
solvent | Hexamethylphosphorotriamide | 7 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-tosyloxyprop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)OS(=O)(=O)C1=CC=C(C)C=C1)NC(=O)OC(C)(C)C)=O | C35H36N2O8S2
